US09193721B2
3.0 M Methylmagnesium bromide in tetrahydrofuran (0.87 mL) was added dropwise to a solution of 4-chloro-7-(3-fluorophenyl)-N-methoxy-N-methylpyrazolo[1,5-a]pyridine-6-carboxamide (0.25 g, 0.75 mmol) in tetrahydrofuran (3.038 mL) under N2 cooled to 0° C. The solution was stirred at 0° C. for 30 minutes. The reaction solution was quenched at 0° C. with 1.0 M hydrogen chloride in water (2.996 mL), poured into 25 mL of water saturated sodium bicarbonate solution and was extracted into ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated in vacuo to give 1-[4-chloro-7-(3-fluorophenyl)pyrazolo[1,5-a]pyridin-6-yl]ethanone (0.15 g, 68%) as an oil. LCMS calculated for C15H11ClFN2O (M+H)+: m/z=289.1. found: 288.9.

reactant | Methylmagnesium bromide | 3.0 M | C[Mg]Br
reactant | 4-chloro-7-(3-fluorophenyl)-N-methoxy-N-methylpyrazolo[1,5-a]pyridine-6-carboxamide | 0.75 mmol, 0.25 g | ClC=1C=2N(C(=C(C1)C(=O)N(C)OC)C1=CC(=CC=C1)F)N=CC2 | C16H13ClFN3O2
solvent | tetrahydrofuran | 0.87 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.038 mL | O1CCCC1 | C4H8O
product | 1-[4-chloro-7-(3-fluorophenyl)pyrazolo[1,5-a]pyridin-6-yl]ethanone | 0.15 g, 68% | ClC=1C=2N(C(=C(C1)C(C)=O)C1=CC(=CC=C1)F)N=CC2 | C15H10ClFN2O
